US08871269B2
Formulation BM (Oxytocin)—Organic Ion Assisted Encapsulation Method
PLGA polymer (MW 24,000, 180 mg) was dissolved in EtOAc (1800 μL). Oxytocin acetate (40 mg) was dissolved in MeOH (200 μL) and added to the polymer solution yielding a milky suspension as the organic phase. The resulting organic phase was combined with a 1% PVA aqueous phase containing 10 mM disodium pamoate to provide an emulsion. The emulsion was collected directly into a 0.3% PVA solvent extraction solution (150 mL) and stirred for four hours to extract EtOAc. Hardened microparticles were collected by filtration, washed with water, air dried and stored at 4° C. This provided formulation BM (158 mg, 79.0% yield) with a median particle size 144 μm. The core load (8.9%), encapsulation efficiency (44.5%) and in vitro burst (21.1%) were determined by RP-HPLC assay. Table 9 shows that the core load and encapsulation efficiency of two different peptides were increased by the presence of an organic ion.

reactant | Oxytocin acetate | 40 mg | CC[C@H](C)[C@H]1C(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@@H](CSSC[C@@H](C(=O)N[C@H](C(=O)N1)CC2=CC=C(C=C2)O)N)C(=O)N3CCC[C@H]3C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)N)CC(=O)N)CCC(=O)N.CC(=O)O
reactant | disodium pamoate | 10 mM | C1=CC=C2C(=C1)C=C(C(=C2CC3=C(C(=CC4=CC=CC=C43)C(=O)O)O)O)C(=O)O.[Na+]
solvent | EtOAc | 1800 μL | CCOC(=O)C | C4H8O2
solvent | MeOH | 200 μL | CO | CH4O
product | Oxytocin | 79.0% yield | CC[C@H](C)[C@H]1C(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@@H](CSSC[C@@H](C(=O)N[C@H](C(=O)N1)CC=2C=CC(=CC2)O)N)C(=O)N3CCC[C@H]3C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)N)CC(=O)N)CCC(=O)N | C43H66N12O12S2
